* source 1
X_F2    N07313 N07321 0 N07335 SCHEMATIC1_F2 
L_L1         0 N07335  1H  
E_E1         N07321 0 N07335 0 0.333
C_C1         0 N07335  0.05  
V_V1         N07305 0  
+SIN 0 6 1.6 0 0 0
R_R3         N07305 N07313  4  

.subckt SCHEMATIC1_F2 1 2 3 4  
F_F2         3 4 VF_F2 4
VF_F2         1 2 0V
.ends SCHEMATIC1_F2
