* source 2
L_L1         0 N08163  1H  
X_F2    N08155 N08177 0 N08163 SCHEMATIC1_F2 
R_R3         N08147 N08155  4  
E_E1         N08177 0 N08163 0 0.333
C_C1         0 N08163  0.05  
V_V1         N08147 0 DC 0Vdc AC 6Vac 

.subckt SCHEMATIC1_F2 1 2 3 4  
F_F2         3 4 VF_F2 4
VF_F2         1 2 0V
.ends SCHEMATIC1_F2
