* source 4
C_C1         0 N08617  {c}  
R_R3         N08601 N08609  4  
X_F2    N08609 N08631 0 N08617 SCHEMATIC1_F2 
E_E1         N08631 0 N08617 0 0.333
L_L1         0 N08617  0.5  
V_V4         N08601 0  
+SIN 0 6 1.6 0 0 0
L_L2         0 N09457  1.7  
X_F3    N09449 N09477 0 N09457 SCHEMATIC1_F3 
R_R4         N09441 N09449  4  
E_E2         N09477 0 N09457 0 0.333
C_C2         0 N09457  {c}  
V_V5         N09441 0  
+SIN 0 6 1.6 0 0 0
X_F4    N10035 N10063 0 N10043 SCHEMATIC1_F4 
V_V6         N10027 0  
+SIN 0 6 1.6 0 0 0
R_R5         N10027 N10035  4  
E_E3         N10063 0 N10043 0 0.333
L_L3         0 N10043  2.8  
C_C3         0 N10043  {c}  
V_V7         N10630 0  
+SIN 0 6 1.6 0 0 0
C_C4         0 N10646  {c}  
E_E4         N10666 0 N10646 0 0.333
L_L4         0 N10646  4  
X_F5    N10638 N10666 0 N10646 SCHEMATIC1_F5 
R_R6         N10630 N10638  4  
.PARAM  c=1n

.subckt SCHEMATIC1_F2 1 2 3 4  
F_F2         3 4 VF_F2 4
VF_F2         1 2 0V
.ends SCHEMATIC1_F2

.subckt SCHEMATIC1_F3 1 2 3 4  
F_F3         3 4 VF_F3 4
VF_F3         1 2 0V
.ends SCHEMATIC1_F3

.subckt SCHEMATIC1_F4 1 2 3 4  
F_F4         3 4 VF_F4 4
VF_F4         1 2 0V
.ends SCHEMATIC1_F4

.subckt SCHEMATIC1_F5 1 2 3 4  
F_F5         3 4 VF_F5 4
VF_F5         1 2 0V
.ends SCHEMATIC1_F5
