* source 5
C_C1         0 N09592  0.05  
X_F2    N09584 N09606 0 N09592 SCHEMATIC1_F2 
V_V1         N09576 0 DC 0Vdc AC 6Vac 
L_L1         0 N09592  1H  
R_R3         N09576 N09584  4  
E_E1         N09606 0 N09592 0 0.333

.subckt SCHEMATIC1_F2 1 2 3 4  
F_F2         3 4 VF_F2 4
VF_F2         1 2 0V
.ends SCHEMATIC1_F2
