* source 6
X_F2    N09053 N09075 0 N09061 SCHEMATIC1_F2 
L_L1         0 N09061  1H  
C_C1         0 N09061  0.05  
E_E1         N09075 0 N09061 0 0.333
R_R3         0 N09053  4  
I_I2         N09061 0 DC 0Adc AC 1Aac 

.subckt SCHEMATIC1_F2 1 2 3 4  
F_F2         3 4 VF_F2 4
VF_F2         1 2 0V
.ends SCHEMATIC1_F2
